************************************************************************
* auCdl Netlist:
* 
* Library Name:  project
* Top Cell Name: AND
* View Name:     schematic
* Netlisted on:  Jan  9 22:10:58 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project
* Cell Name:    AND
* View Name:    schematic
************************************************************************

.SUBCKT AND A B GND OUT VDD
*.PININFO A:I B:I OUT:O GND:B VDD:B
MM4 OUT net2 VDD VDD PMOS_VTG W=180.0n L=50n m=1
MM1 net2 A VDD VDD PMOS_VTG W=180.0n L=50n m=1
MM0 net2 B VDD VDD PMOS_VTG W=180.0n L=50n m=1
MM5 OUT net2 GND GND NMOS_VTG W=90n L=50n m=1
MM3 net1 B GND GND NMOS_VTG W=90n L=50n m=1
MM2 net2 A net1 GND NMOS_VTG W=90n L=50n m=1
.ENDS

